US07041681B2
4-{2-amino-3-oxo-3-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-benzamide
2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid (0.42 g, 1.25 mmol) was dissolved in DMF (5 mL) followed by 1-hydroxybenzotriazole (0.34 g, 1.75 mmol), and the resulting solution was cooled to 0° C. To this reaction mixture was added 2-(4-phenyl-1H-imidazol-2-yl)-piperidine (0.31 g, 1.75 mmol) followed by (4-dimethylamino-butyl)-ethyl-carbodiimide (0.34 g, 1.75 mmol). The reaction was then warmed to room temperature and stirred for 16 hours. The reaction mixture was then combined with 2N citric acid and washed multiple times with ethyl acetate. The combined organics were washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered, and concentrated under reduced pressure to yield 600 mg of desired product {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester as a glass which was used as is without further purification. (TLC: 5:1 CHCl3:MeOH Rf=0.6)

reactant | 2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid | 1.25 mmol, 0.42 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=C(C=C1C)C(N)=O)C | C17H24N2O5
reactant | 1-hydroxybenzotriazole | 1.75 mmol, 0.34 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(4-phenyl-1H-imidazol-2-yl)-piperidine | 1.75 mmol, 0.31 g | C1(=CC=CC=C1)C=1N=C(NC1)C1NCCCC1 | C14H17N3
reactant | (4-dimethylamino-butyl)-ethyl-carbodiimide | 1.75 mmol, 0.34 g | CN(CCCCN=C=NCC)C | C9H19N3
reactant | citric acid | 2N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-{2-amino-3-oxo-3-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-benzamide | 600 mg | NC(CC1=C(C=C(C(=O)N)C=C1C)C)C(N1C(CCCC1)C=1NC=C(N1)C1=CC=CC=C1)=O | C26H31N5O2
